US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carbonitrile
Thionyl chloride (20 ml) was added under cooling to 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidine-3-carboxylic acid amide (2.34 g, 8.46 mmol). The reaction mixture was refluxed for 3 h. Excess of thionyl chloride was evaporated. Water was slowly added to the residue, the mixture was made alkaline with aq NaOH and extracted with DCM (3×5 ml). The combined organic phases were dried (Na2SO4), filtered and the filtrate was evaporated to give the title compound, which was purified by column chromatography (DCM/MeOH, 90:10).

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidine-3-carboxylic acid amide | 8.46 mmol, 2.34 g | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)C(=O)N | C15H20N2O3
solvent | Thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carbonitrile | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)C#N | C15H18N2O2
